US07173129B2
N-Butyryl-4-{3E-[2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}benzenesulfonamide
To a suspension of 4-{3-[2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}benzenesulfonamide (Ex-37A, 1.5 g, 3.15 mmol) in 100 ml of THF, butyric anhydride (1.0 g, 6.3 mmol), triethylamine (0.33 g, 3.3 mmol) and 4-dimethylaminopyridine (0.038 g, 0.32 mmol) were added. The mixture was aged at room temperature overnight. The mixture was poured into water (100 ml) and extracted with 3×100 ml of CH2Cl2. The combined organic phase was washed with 0.5 N HCl, H2O, and brine, and concentrated to give crude product. Crystallization from EtOAc/hexanes gave 0.95 g (55%) of the title compound as a yellow solid, mp 144–146° C. 1H-NMR (300 MHz, CD3COCD3) δ 8.27 (d, J=9 Hz, 2H), 8.21 (d, J=16 Hz, 1H), 8.10 (d, J=9 Hz, 2H), 7.89 (s, 1H), 7.87 (d, J=16 Hz, 1H), 7.54 (d, J=8 Hz, 1H), 7.37 (d, J=8 Hz, 1H), 7.13–7.18 (m, 1H), 7.01–7.06 (m, 1H), 6.91 (s, 1H), 6.41 (s, 1H), 4.08 (s, 3H), 3.94 (s, 3H), 3.57 (s, 3H), 2.27 (t, J=7 Hz, 2H), 1.45–1.53 (m, 2H), 0.79 (t, J=8 Hz, 3H). HRMS (ESI) Calcd. for C30H30N2O6S: 547.1903 (M+H)+; Found: 547.1905.

reactant | 4-{3-[2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}benzenesulfonamide | 3.15 mmol, 1.5 g | COC1=C(C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C)C=CC(=O)C1=CC=C(C=C1)S(=O)(=O)N | C26H24N2O5S
reactant | butyric anhydride | 6.3 mmol, 1.0 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | triethylamine | 3.3 mmol, 0.33 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.32 mmol, 0.038 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Butyryl-4-{3E-[2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}benzenesulfonamide | 0.95 g, 55% | C(CCC)(=O)NS(=O)(=O)C1=CC=C(C=C1)C(\C=C\C1=C(C=C(C(=C1)C=1N(C2=CC=CC=C2C1)C)OC)OC)=O | C30H30N2O6S
